US07582646B2
Step 2: Preparation of 6-chloro-N4-(4-{[2-methylpyridin-4-yl]oxy}phenyl)pyrimidine-2,4-diamine
{4-[(2-Methylpyridin-4-yl) oxy] phenyl} amine (47.5 g, 237 mmol) and 2-amino-4,6-dichloropyrimidine (40.8 g, 249 mmol) were suspended in water (900 mL) and 2-propanol (300 mL). 2M aqueous hydrochloric acid solution (23.7 mL) was then added and the mixture was then heated at 95° C. for 17 h. The mixture was then allowed to come to rt and solids were collected by suction filtration and washed with small amount of isopropanol. The solids were then resuspended in DMF and heated at 90° C. Triethylamine (20 mL) was then added and the mixture was stir for additional 10 min at 90° C. Water was then added in excess until cloudiness persisted at temperature. This was cooled to about 5° C. and precipitate formed were collected by suction filtration, washed with water and dried in vacuum oven at 40° C. to afford desired product (50 g, 64%) as light tan solid. 1H NMR (DMSO-d6) δ 9.40 (s, 1H), 8.27 (d, 1H), 7.76 (d, 2H), 7.06 (d, 2H), 6.75 (brs, 2H), 6.72 (d, 1H), 6.66 (s, 1H), 5.98 (s, 1H); MS ES 328 (M+H)+, calcd 328, RT=1.45 min.

reactant | {4-[(2-Methylpyridin-4-yl) oxy] phenyl} amine | 237 mmol, 47.5 g | CC1=NC=CC(=C1)OC1=CC=C(C=C1)N | C12H12N2O
reactant | 2-amino-4,6-dichloropyrimidine | 249 mmol, 40.8 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | hydrochloric acid | 2M, 23.7 mL | Cl | ClH
solvent | water | 900 mL | O | H2O
solvent | 2-propanol | 300 mL | CC(C)O | C3H8O
product | 6-chloro-N4-(4-{[2-methylpyridin-4-yl]oxy}phenyl)pyrimidine-2,4-diamine | 50 g, 64% | ClC1=CC(=NC(=N1)N)NC1=CC=C(C=C1)OC1=CC(=NC=C1)C | C16H14ClN5O
